US09169259B2
3-(8-(5,6-Dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid (58 mg, 148 μmol), HOBt (34.0 mg, 222 μmol) and EDCI (42.6 mg, 222 μmol) were combined with DMF (10 mL) to give a light yellow suspension. After 1 h, a clear yellow solution had been generated. DIPEA (47.9 mg, 64.7 μL, 370 μmol) and 4-amino-N-methylbenzamide (31.2 mg, 207 μmol) were added. After 15 h the mixture was concentrated in vacuo then diluted with water (10 mL) and filtered. The collected solid was washed with water (3×3 mL) and dried in vacuo. Purification by chromatography (silica, 50 g, Supelco VersaFlash, 0-5% methanol in dichloromethane, gradient over 15 min) gave a residue that was recrystallized from methanol to give 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(4-(methylcarbamoyl)phenyl)benzamide (22 mg, 42.0 μmol, 28%) as an off-white powder. 1H NMR (300 MHz, DMSO-d6) δ ppm 10.60 (s, 1H) 9.98 (s, 1H) 8.62 (s, 1H) 8.53 (s, 1H) 8.36 (d, J=4.91 Hz, 1H) 8.16-8.27 (m, 2H) 8.10 (d, J=7.93 Hz, 1H) 7.87 (d, J=1.51 Hz, 4H) 7.61-7.76 (m, 2H) 7.42 (d, J=8.31 Hz, 1H) 7.13 (d, J=8.31 Hz, 1H) 4.03 (s, 3H) 3.77 (s, 3H) 2.79 (d, J=4.53 Hz, 3H); LC/MS: 524.1 [MH]+.

reactant | 3-(8-(5,6-Dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)benzoic acid | 148 μmol, 58 mg | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)O)C=CC1)C=CN2 | C20H17N5O4
reactant | HOBt | 222 μmol, 34.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 222 μmol, 42.6 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 370 μmol, 64.7 μL, 47.9 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-N-methylbenzamide | 207 μmol, 31.2 mg | NC1=CC=C(C(=O)NC)C=C1 | C8H10N2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-(8-(5,6-dimethoxypyridin-2-ylamino)imidazo[1,2-b]pyridazin-6-yl)-N-(4-(methylcarbamoyl)phenyl)benzamide | 42.0 μmol, 22 mg, 28% | COC=1C=CC(=NC1OC)NC=1C=2N(N=C(C1)C=1C=C(C(=O)NC3=CC=C(C=C3)C(NC)=O)C=CC1)C=CN2 | C28H25N7O4
